US05627191
A mixture of 2-butyl-4-chloro-1H-imidazole-5-carboxaldehyde (4.0 g; preparable as described in Drugs of the Future (1991), Vol. 16, p 305), potassium carbonate (2.94 g) and dry dimethylformamide (50 ml) was stirred for 15 minutes at ambient temperature. 4-Iodobenzyl bromide (6.34 g) was added to the resulting mixture and stirring was continued for approximately 17 hours. The solvent was then evaporated under reduced pressure at 80° C. Water (200 ml) was added to the resulting residue which was then extracted with diethyl ether (2×100 ml). The combined extracts were washed with water (50 ml) and dried over magnesium sulphate. The solvent was evaporated. The resulting residue was purified by flash chromatography on silica gel (eluting with dichloromethane/methanol (80:1)) to give the intermediate compound 2-butyl-4-chloro-1-(4-iodobenzyl)-1H-imidazole-5-carboxaldehyde as an oil (6.9 g).

reactant | 2-butyl-4-chloro-1H-imidazole-5-carboxaldehyde | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | potassium carbonate | 2.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Iodobenzyl bromide | 6.34 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-butyl-4-chloro-1-(4-iodobenzyl)-1H-imidazole-5-carboxaldehyde | 6.9 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)I | C15H16ClIN2O
